US08389524B2
(a) Ethyl[(2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)thio]acetate
A solution of 5-bromo-2,4(1H,3H)-pyrimidinedione (15 g, 79 mmol) and ethyl mercaptoacetate (8.58 ml, 79 mmol) in DMF (200 mL) was treated with tetrabutylammonium hydrogen sulfate (6.67 g, 19.64 mmol) and potassium carbonate (23.88 g, 173 mmol) and stirred at ambient temperature overnight. The solution was filtered and concentrated under reduced pressure to yield crude title compound as a yellow oil which foams up under reduced pressure.

reactant | 5-bromo-2,4(1H,3H)-pyrimidinedione | 79 mmol, 15 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | ethyl mercaptoacetate | 79 mmol, 8.58 ml | SCC(=O)OCC | C4H8O2S
reactant | potassium carbonate | 173 mmol, 23.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium hydrogen sulfate | 19.64 mmol, 6.67 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Ethyl[(2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)thio]acetate | C(C)OC(CSC=1C(NC(NC1)=O)=O)=O | C8H10N2O4S
